US07652008B2
2,2-dimethyl-2H-pyrano[2,3-g]quinoline
Under nitrogen atmosphere, to a solution of 6-amino-2,2-dimethylchromene (3.88 g, 22.1 mmol) and ruthenium trichloride (55.0 mg, 0.265 mmol) in dimethylene glycol dimethyl ether (8 mL), 1,3-propanediol (0.639 mL, 8.84 mmol) and tri-n-butyl phosphine (0.132 mL, 0.530 mmol) were addled at room temperature, and the resulting mixture was stirred at 180° C. for 5 hours. Upon the completion of the reaction, ruthenium complex was removed by florisil column, and solvent was distilled off. The residue was purified by medium pressure column chromatography (hexane/ethyl acetate=5/1) and the aimed product was obtained (yield: 59%).

reactant | 6-amino-2,2-dimethylchromene | 22.1 mmol, 3.88 g | NC=1C=C2C=CC(OC2=CC1)(C)C | C11H13NO
reactant | 1,3-propanediol | 8.84 mmol, 0.639 mL | C(CCO)O | C3H8O2
reactant | tri-n-butyl phosphine | 0.530 mmol, 0.132 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | dimethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
catalyst | ruthenium trichloride | 0.265 mmol, 55.0 mg | [Ru](Cl)(Cl)Cl
product | 2,2-dimethyl-2H-pyrano[2,3-g]quinoline | yield: 59% | CC1(C=CC=2C(=CC=3C=CC=NC3C2)O1)C | C14H13NO
